US06225311B1
A solution of D-penicillamine (0.5 g, 3.35 mmol) in methanol (5 ml) was cooled to 0° C. and crushed sodium hydroxide (0.28 g, 6.87 mmol) was added to give a clear solution. 2-Bromoethanol (0.26 ml. 3.71 mmol) was added and the reaction was stirred at 0° C. for 1 hour and then at room temperature for an additional 1.5 hours. The solvent was evaporated and the oily residue was dissolved in 3 mL water and 6 mL DMF and stirred with sodium carbonate (0.82 g 7.2 mmol) and 4-butynyloxy-benzenesufonyl chloride (0.78 g, 3.18 mmol) at room temperature overnight. After evaporating the solvent, the residue was diluted with ethyl acetate and water. The aqueous layer was acidified to pH˜3 with concentrated HCl and extracted with dichloromethane. The organic layer was washed with water and brine, dried over sodium sulfate, filtered and concentrated to obtain 1.2 g of (2S)-2-{[4-(2 butynyloxy)phenyl]sulfonyl}amino)-3-[ (2-hydroxyethyl)sulfanyl]-3-methylbutanoic acid as an oil. Yield 89.6%. Electrospray Mass Spec 400.1 (M−H)−.

reactant | D-penicillamine | 3.35 mmol, 0.5 g | N[C@H](C(C)(C)S)C(=O)O | C5H11NO2S
reactant | sodium hydroxide | 6.87 mmol, 0.28 g | [OH-].[Na+]
reactant | 2-Bromoethanol | 3.71 mmol, 0.26 ml | BrCCO | C2H5BrO
reactant | sodium carbonate | 7.2 mmol, 0.82 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-butynyloxy-benzenesufonyl chloride | 3.18 mmol, 0.78 g | C(#CCC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H9ClO3S
solvent | methanol | 5 ml | CO | CH4O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 3-[ (2-hydroxyethyl)sulfanyl]-3-methylbutanoic acid | Yield 89.6% | OCCSC(CC(=O)O)(C)C | C7H14O3S
